data/oMe_Silver.jsonl
{"reaction_id": "NR-312_10-Cl_1-C#N_2-CC_3-C(C)(C)C_4-C_5-C1CCCCC1_6-C(F)(F)F_7-C(F)(F)F_8-C(=O)C_9-c2cnccn2","level": "easy","name": "Ullmann Condensation","reactants_smiles": ["c1(C#N)c(CC)c(C(C)(C)C)c(C)c(C1CCCCC1)c1O","c1(C(F)(F)F)c(C(F)(F)F)c(C(=O)C)c(c2cnccn2)c(Cl)c1I"],"products_smiles": ["c1(C#N)c(CC)c(C(C)(C)C)c(C)c(C1CCCCC1)c1Oc2c(C(F)(F)F)c(C(F)(F)F)c(C(=O)C)c(c2cnccn2)c2(Cl)"],"conditions": "CuI, Base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(C#N)c(CC)c(C(C)(C)C)c(C)c(C1CCCCC1)c1[O-]","step_weight": 0,"rationale": "Base deprotonates phenol because the phenolic proton is acidic and the resulting phenoxide is resonance-stabilized, increasing nucleophilicity for subsequent copper-mediated coupling."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(C(F)(F)F)c(C(F)(F)F)c(C(=O)C)c(c2cnccn2)c(Cl)c1[Cu](I)I","step_weight": 0,"rationale": "Cu(I) undergoes oxidative addition into the aryl–iodine bond due to the good leaving group ability of iodide and the polarizable C–I bond, forming a reactive aryl–Cu(III) species."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c2(C(F)(F)F)c(C(F)(F)F)c(C(=O)C)c(c2cnccn2)c(Cl)c2[Cu](I)Oc1c(C#N)c(CC)c(C(C)(C)C)c(C)c1(C1CCCCC1)","step_weight": 0,"rationale": "The phenoxide oxygen attacks the aryl–Cu complex via nucleophilic substitution, favored by the strong Cu–O bond formation and the activated aryl group bound to copper."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C#N)c(CC)c(C(C)(C)C)c(C)c(C1CCCCC1)c1Oc2c(C(F)(F)F)c(C(F)(F)F)c(C(=O)C)c(c2cnccn2)c2(Cl)","step_weight": 0,"rationale": "Reductive elimination from Cu(III) forms the C–O bond of the biaryl ether, driven by the thermodynamic stability of the product and regeneration of the Cu(I) catalyst."}],"description": "In the Ullmann condensation, the phenol is first deprotonated by base to form a nucleophilic phenoxide. Copper(I) catalyzes the coupling by oxidative addition to the aryl iodide, enabling nucleophilic attack and subsequent reductive elimination to form the biaryl ether linkage."}
